US06727264B1
N-(3-{1-[4-(3,4-DIMETHYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)-N,2-DIMETHYLPROPANAMIDE:
A mixture of N-(3-{1-[4-(3,4-dimethylphenyl)-4-oxobutyl]-4-piperidinyl}phenyl)-2-methylpropanamide (15.0 mg, 0.0357 mmol), MeI (5.07 mg, 0.0357 mmol), NaOtBu (6.86 mg, 0.0714 mmol) and THF (1.00 mL) was stirred for 5 h at 25° C. The resulting crude mixture was diluted with water (10 mL), the aqueous layer was extracted with CH2Cl2 (3×20 mL). The combined organic layers were concentrated in vacuo and the residue was purified by preparative TLC using 4.0% of NH3 (2.0 M in methanol) in CH2Cl2 to afford the desired product N-(3-{1-[4-(3,4-dimethylphenyl)-4-oxobutyl]-4-piperidinyl}phenyl)-N,2-dimethypropanamide (13.8 mg, 89.1%) 1H NMR (400 MHz, CDCl3) 7.76 (s, 1H), 7.72 (dd, 1H, J=1.8, 7.7 Hz), 7.33 (t, 1H, J=8.8 Hz), 7.22 (d, 1H, J=7.8 Hz), 7.18 (d, 1H, J=8.8 Hz), 7.01 (m, 2H), 3.24 (s, 3H), 3.10 (d, 1H, J=10.6 Hz), 3.00 (t, 1H, J=7. 6 Hz), 2.49-2.44 (m, 4H), 2.33 (s, 6H), 2.11-2.10 (m, 2H), 1.99 (m, 1H), 1.79-1.77 (m, 4H), 1.26 (t, 2H, J=7.6 Hz), 1.02 (d, 6H, J=7.6 Hz); ESMS m/e: 435.2 (M+H)+.

reactant | N-(3-{1-[4-(3,4-dimethylphenyl)-4-oxobutyl]-4-piperidinyl}phenyl)-2-methylpropanamide | 0.0357 mmol, 15.0 mg | CC=1C=C(C=CC1C)C(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C27H36N2O2
reactant | MeI | 0.0357 mmol, 5.07 mg | CI | CH3I
reactant | NaOtBu | 0.0714 mmol, 6.86 mg | CC(C)(C)[O-].[Na+]
reactant | THF | 1.00 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | N-(3-{1-[4-(3,4-dimethylphenyl)-4-oxobutyl]-4-piperidinyl}phenyl)-N,2-dimethypropanamide | 13.8 mg, 89.1% | CC=1C=C(C=CC1C)C(CCCN1CCC(CC1)C=1C=C(C=CC1)N(C(C(C)C)=O)C)=O | C28H38N2O2
